US06946491B2
Step A: Preparation of 2-Fluorobenzyl methanesulfonate:
To a solution of 2-Fluorobenzyl alcohol (10 g, 79.28 mmol) in dry dichloromethane (200 ml) was added triethylamine (12.03 g, 118.9 mmol) under argon at room temperature. Methanesulfonyl chloride (10.71 g, 93.5 mmol) was added to the above reaction mixture at 0° C., and stirring was continued for another 3 hours. Water (100 ml) was added to the reaction mixture and the mixture was extracted twice with dichloromethane. The combined organic layers were washed with water and brine. The reaction mixture was dried over Na2SO4, filtered and concentrated to give the title compound as an yellow oil which was used without further purification.

reactant | 2-Fluorobenzyl alcohol | 79.28 mmol, 10 g | FC1=C(CO)C=CC=C1 | C7H7FO
reactant | triethylamine | 118.9 mmol, 12.03 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 93.5 mmol, 10.71 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Fluorobenzyl methanesulfonate | CS(=O)(=O)OCC1=C(C=CC=C1)F | C8H9FO3S
